US06096788
N,N,N,N',N',N'-hexapropyl-1,14-tetradecanediaminium dibromide
3.56 g (10 mM) of -1,14-dibromotetradecane are added to 20 ml tripropylamine and held at 80/90° C. over night. The excess tertiary amine is evaporated under vacuum, and a minimal amount of ethanol is added to redissolve the derivative which is reprecipitated with ether. The derivative defined in the title is obtained by recrystallization in a isopropanol/iisopropylic ether mixture, M.P.=170° C.

reactant | 1,14-dibromotetradecane | BrCCCCCCCCCCCCCCBr | C14H28Br2
reactant | tripropylamine | 20 ml | C(CC)N(CCC)CCC | C9H21N
product | N,N,N,N',N',N'-hexapropyl-1,14-tetradecanediaminium dibromide | [Br-].[Br-].C(CC)[N+](CCCCCCCCCCCCCC[N+](CCC)(CCC)CCC)(CCC)CCC | InChI=1S/C32H70N2.2BrH/c1-7-25-33(26-8-2,27-9-3)31-23-21-19-17-15-13-14-16-18-20-22-24-32-34(28-10-4,29-11-5)30-12-6;;/h7-32H2,1-6H3;2*1H/q+2;;/p-2
